US07223788B2
N-{4-[4-(Acetylmethylamino)-2-oxopyrrolidin-1-yl]phenyl}-4-cyclohexyl-N-methylbenzamide
4-Cyclohexyl-N-methyl-N-[4-(4-methylamino-2-oxopyrrolidin-1-yl)phenyl]benzamide (101 mg) was mixed with pyridine (20 mg) and acetic anhydride (25 mg) and, after 3 hours, volatile fractions were removed in vacuo. This resulted in the product with the molecular weight of 447.58 (C27H33N3O3); MS (ESI): 448 (M+H+).

reactant | 4-Cyclohexyl-N-methyl-N-[4-(4-methylamino-2-oxopyrrolidin-1-yl)phenyl]benzamide | 101 mg | C1(CCCCC1)C1=CC=C(C(=O)N(C2=CC=C(C=C2)N2C(CC(C2)NC)=O)C)C=C1 | C25H31N3O2
reactant | acetic anhydride | 25 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 20 mg | N1=CC=CC=C1 | C5H5N
product | N-{4-[4-(Acetylmethylamino)-2-oxopyrrolidin-1-yl]phenyl}-4-cyclohexyl-N-methylbenzamide | C(C)(=O)CNC1CC(N(C1)C1=CC=C(C=C1)N(C(C1=CC=C(C=C1)C1CCCCC1)=O)C)=O | C27H33N3O3
